### PR TITLE
[Merged by Bors] - feat(ModularForm): Graded Ring instance on spaces of modular forms

### PR DESCRIPTION
**Pull request by CBirkbeck**
This adds the graded ring instance to spaces of modular forms.

Co-authored-by: Ruben Van de Velde <65514131+Ruben-VandeVelde@users.noreply.github.com>

---

The porting of this was done with help by Ruben Van de Velde

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 1]
```diff
@@ -397,3 +399,125 @@ instance (priority := 99) [CuspFormClass F Γ k] : ModularFormClass F Γ k where
...
+theorem hEq_mul_comm {a b : ℤ} {Γ : Subgroup SL(2, ℤ)} (f : ModularForm Γ a) (g : ModularForm Γ b) :
+    HEq (f.mul g) (g.mul f) := by
+  apply heq_of_cast_eq (type_eq Γ (add_comm a b))
+  rw [cast_eq_mcast, mcast]
+  ext1
+  simp only [mul_coe, Pi.mul_apply, mul_comm]
+  rfl
+  apply add_comm
+
+variable (ι : Type _) (A : ι → Type _) [Zero ι] [GradedMonoid.GOne A]
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:464]: `Type _` is generally a bad idea, you should use `Type*` wherever you can.

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 2]
```diff
@@ -397,3 +399,125 @@ instance (priority := 99) [CuspFormClass F Γ k] : ModularFormClass F Γ k where
...
+theorem type_eq {a b : ℤ} (Γ : Subgroup SL(2, ℤ)) (h : a = b) :
+    ModularForm Γ a = ModularForm Γ b := by
+  induction h
+  rfl
+
+theorem cast_eq_mcast {a b : ℤ} {Γ : Subgroup SL(2, ℤ)} (h : a = b) (f : ModularForm Γ a) :
+    cast (type_eq Γ h) f = mcast h f := by
+  induction h
+  ext1
+  rfl
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:424]: I think you can remove the need for these if you instead add:
```lean
@[ext]
theorem gradedMonoid_eq_of_cast {Γ : Subgroup SL(2, ℤ)} {a b : GradedMonoid (ModularForm Γ)}
    (h : a.fst = b.fst) (h2 : mcast h a.snd = b.snd) : a = b := by
  obtain ⟨i, a⟩ := a
  obtain ⟨j, b⟩ := b
  cases h
  exact congr_arg _ h2
```
which is the approach I used for tensor powers

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 3]
```diff
@@ -397,3 +399,125 @@ instance (priority := 99) [CuspFormClass F Γ k] : ModularFormClass F Γ k where
...
+
+variable (ι : Type _) (A : ι → Type _) [Zero ι] [GradedMonoid.GOne A]
+
+@[simp]
+theorem one_fst : (1 : GradedMonoid A).fst = 0 :=
+  rfl
+
+@[simp]
+theorem one_snd : (1 : GradedMonoid A).snd = 1 :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:472]: Can you put these in the file where `GradedMonoid.GOne` is defined?

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 4]
```diff
@@ -397,3 +399,125 @@ instance (priority := 99) [CuspFormClass F Γ k] : ModularFormClass F Γ k where
...
+  gnpow_succ' := by
+    intro n f
+    rw [GradedMonoid.GMul.toMul]
+    apply Sigma.ext <;> rw [GradedMonoid.GMonoid.gnpowRec_succ]
+  natCast n := n • (1 : ModularForm Γ 0)
+  natCast_zero := by simp only [zero_smul]
+  natCast_succ n := by simp only [add_smul, one_nsmul, add_right_inj]
+  intCast n := n • (1 : ModularForm Γ 0)
+  intCast_ofNat := by simp only [coe_nat_zsmul, forall_const]
+  intCast_negSucc_ofNat n := by simp only [Int.negSucc_coe]; apply _root_.neg_smul
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:523]: Can you create a separate `NatCast (ModularForm Γ 0)` instance first? Ideally you'd build it up from `SlashInvariantForm` to have a nice defeq.

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 5]
```diff
@@ -397,3 +399,125 @@ instance (priority := 99) [CuspFormClass F Γ k] : ModularFormClass F Γ k where
...
+
+theorem hEq_one_mul (k : ℤ) {Γ : Subgroup SL(2, ℤ)} (f : ModularForm Γ k) :
+    HEq ((1 : ModularForm Γ 0).mul f) f := by
+  apply heq_of_cast_eq (type_eq Γ (zero_add k).symm).symm
+  funext
+  rw [cast_eq_mcast, mcast]
+  simp only [mul_coe, one_coe_eq_one, one_mul]
+  ext1
+  rfl
+  simp only [zero_add]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:434]: You've got a few repetitive proofs here that could be avoided like this:
```suggestion
theorem hEq_of_mcast_eq {Γ : Subgroup SL(2, ℤ)} (h : a = b)
    {f : ModularForm Γ a} {g : ModularForm Γ b} (H : ∀ x, f x = g x) : HEq f g := by
  apply heq_of_cast_eq (type_eq Γ h)
  rw [cast_eq_mcast h]
  ext1
  simp [H]

theorem hEq_one_mul (k : ℤ) {Γ : Subgroup SL(2, ℤ)} (f : ModularForm Γ k) :
    HEq ((1 : ModularForm Γ 0).mul f) f :=
  hEq_of_mcast_eq (zero_add k) fun _ => by simp
```

Comment (eric-wieser) [reply Mathlib/NumberTheory/ModularForms/Basic.lean:434]: I think this is basically the same as https://github.com/leanprover-community/mathlib4/pull/9164#discussion_r1432765465, but my version avoids the HEq entirely.

File: Mathlib/NumberTheory/ModularForms/Basic.lean (hunk 2 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/Basic.lean:424]: Sorry if this is a stupid question, but I just want to check I understand. You're saying using this I can get rid of `type_eq` and `cast_eq_mcast`, but I then also need to change the `hEq` lemmas bellow to lemmas about `mcast` instead. For it work like in the tensor powers.

Comment (eric-wieser) [reply Mathlib/NumberTheory/ModularForms/Basic.lean:424]: Yes, that is indeed what I mean

File: Mathlib/NumberTheory/ModularForms/Basic.lean (hunk 4 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/Basic.lean]: Sure, I did this for `IntCast` instead, since I guess thats the better instance to have?

Comment (ericrbg) [reply Mathlib/NumberTheory/ModularForms/Basic.lean]: I think we need both for defeqs>

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/Basic.lean]: Oh so you mean make each of them an separate instance and I guess add some lemma saying they agree?

Comment (eric-wieser) [reply Mathlib/NumberTheory/ModularForms/Basic.lean]: There's no need to add the lemma that says they agree, that'd handled automatically by existing lemmas in mathlib.

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/Basic.lean]: alrighty, done! I didn't quite build it up from Slashinvariantform, but added a lemma saying they agree. But maybe thats a bad idea? I'm not yet sure what the problems would be of doing it this way.

File: Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean [hunk 6]
```diff
@@ -208,9 +208,14 @@ theorem coeHom_injective : Function.Injective (@coeHom Γ k) :=
...
   coeHom_injective.module ℂ coeHom fun _ _ => rfl
 
-instance : One (SlashInvariantForm Γ 0) :=
-  ⟨{toFun := 1
-    slash_action_eq' := fun A => ModularForm.is_invariant_one A }⟩
+/-- The `SlashInvariantForm` corresponding to `Function.const _ x`. -/
+@[simps]
+def const (x : ℂ) : SlashInvariantForm Γ 0 where
+  toFun := Function.const _ x
+  slash_action_eq' A := ModularForm.is_invariant_const A x
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean:215]: @CBirkbeck, I just pushed this; can you add an analogous definition for `ModularForm`?

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 7]
```diff
@@ -397,3 +400,109 @@ instance (priority := 99) [CuspFormClass F Γ k] : ModularFormClass F Γ k where
...
+    (n : ModularForm Γ 0) =  (n :  SlashInvariantForm Γ 0) := by
+  rfl
+
+@[simp]
+lemma natCast_coe (Γ : Subgroup SL(2, ℤ)) (n : ℕ) :
+    (n : ModularForm Γ 0 ) = n • (1 : ModularForm Γ 0) := by rfl
+
+@[simp]
+lemma intCast_coe (Γ : Subgroup SL(2, ℤ)) (n : ℤ) :
+    (n : ModularForm Γ 0 ) = n • (1 : ModularForm Γ 0) := by rfl
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:479]: Ideally the statement of these would be
```suggestion
@[simp]
lemma natCast_coe (Γ : Subgroup SL(2, ℤ)) (n : ℕ) :
    ⇑(n : ModularForm Γ 0 ) = n := rfl

@[simp]
lemma intCast_coe (Γ : Subgroup SL(2, ℤ)) (z : ℤ) :
    ⇑(z : ModularForm Γ 0) = z := rfl
```
Note that `by rfl` is almost always an antipattern, you should prefer plain `rfl` unless it times out.

File: Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean:215]: (this will also be useful for building a `GAlgebra` instance, I would guess)

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 8]
```diff
@@ -397,3 +400,109 @@ instance (priority := 99) [CuspFormClass F Γ k] : ModularFormClass F Γ k where
...
+instance (Γ : Subgroup SL(2, ℤ)) : GradedMonoid.GMul (ModularForm Γ) where
+  mul f g := f.mul g
+
+open GradedMonoid
+
+instance (Γ : Subgroup SL(2, ℤ)) : NatCast (ModularForm Γ 0) where
+  natCast := fun n => n • (1 : ModularForm Γ 0)
+
+instance (Γ : Subgroup SL(2, ℤ)) : IntCast (ModularForm Γ 0) where
+  intCast := fun n => n • (1 : ModularForm Γ 0)
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:467]: With my suggestion about `const`, this becomes
```suggestion
instance (Γ : Subgroup SL(2, ℤ)) : NatCast (ModularForm Γ 0) where
  natCast n := const n

instance (Γ : Subgroup SL(2, ℤ)) : IntCast (ModularForm Γ 0) where
  intCast z := const z
```

File: Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean]: I went ahead and did this for you :)

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean]: Oh thank you! it looks a lot cleaner now :)

File: Mathlib/Algebra/GradedMonoid.lean [hunk 9]
```diff
@@ -283,6 +283,16 @@ instance GradeZero.one : One (A 0) :=
...
 
+variable [GradedMonoid.GOne A]
+
+@[simp]
+theorem one_fst : (1 : GradedMonoid A).fst = 0 :=
+  rfl
+
+@[simp]
+theorem one_snd : (1 : GradedMonoid A).snd = 1 :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/GradedMonoid.lean:294]: I've split these results to #9227, which catches a handful of similar missing statements.

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 10]
```diff
@@ -265,18 +268,43 @@ theorem mul_coe {k_1 k_2 : ℤ} {Γ : Subgroup SL(2, ℤ)} (f : ModularForm Γ k
...
 
-instance : One (ModularForm Γ 0) :=
-  ⟨ { toSlashInvariantForm := 1
-      holo' := fun x => mdifferentiableAt_const 𝓘(ℂ, ℂ) 𝓘(ℂ, ℂ)
-      bdd_at_infty' := fun A => by
-        simpa only [SlashInvariantForm.one_coe_eq_one,
-          ModularForm.is_invariant_one] using atImInfty.const_boundedAtFilter (1 : ℂ) }⟩
+/-- The constant function with value `x : ℂ` as a modular form of weight 0 and any level. -/
+@[simps! (config := .asFn) toFun toSlashInvariantForm]
+def const (x : ℂ) : (ModularForm Γ 0) where
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:273]:
```suggestion
def const (x : ℂ) : ModularForm Γ 0 where
```

**Review by eric-wieser — APPROVED** [review]
On the one hand, this is an API I designed, so probably I'm the most qualified reviewer here; but also I pushed a lot of golfs to this PR. Let's let another maintainer take a final look.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
